US09334290B2
A mixture of 2-(3-chloropyridin-2-yl)-N-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamide (0.192 g, 0.497 mmol) and CDI (0.322 g, 1.986 mmol) in toluene (2 mL) was heated at 110° C. After 5 h, the cooled mixture was diluted with EtOAc and washed sequentially with water and brine. The combined aqueous layers were extracted with EtOAc, and the combined organic phases were dried and concentrated. The residue was purified by column chromatography on silica gel, eluting with EtOAc-hexanes, to provide racemic 5-chloro-2-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrido[1,2-c]pyrimidine-1,3(2H)-dione as a bright yellow solid (0.133 g, 65% yield). Mass spectrum m/z 413 (M+H)+. 1H NMR (400 MHz, chloroform-d) δ 8.26 (dt, J=7.6, 0.9 Hz, 1H), 7.94 (dd, J=7.5, 1.3 Hz, 1H), 7.36 (t, J=7.6 Hz, 1H), 7.27-7.18 (m, 2H), 6.36 (t, J=7.3 Hz, 1H), 6.31 (s, 1H), 1.57 (s, 3H), 1.36 (s, 12H).

reactant | 2-(3-chloropyridin-2-yl)-N-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamide | 0.497 mmol, 0.192 g | ClC=1C(=NC=CC1)CC(=O)NC1=C(C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C20H24BClN2O3
reactant | CDI | 1.986 mmol, 0.322 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | racemic 5-chloro-2-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrido[1,2-c]pyrimidine-1,3(2H)-dione | 0.133 g, 65% yield | ClC1=CC=CN2C(N(C(C=C21)=O)C2=C(C(=CC=C2)B2OC(C(O2)(C)C)(C)C)C)=O | C21H22BClN2O4
